US05270310
N,N-Dimethyl-N'-(2-propyl)-N'-hexadecanoyl-1,3-propanediamine hydrochloride (9, hydrochloride salt)
To a solution of N,N-dimethyl-N'-(2-propyl)-N'-hexadecanoyl-1,3-propanediamine (0.20 g, 0.52 mmole) in diethyl ether was added an ethereal solution of hydrogen chloride. The reaction mixture was placed in the refrigerator overnight. The title compound (0.09 g, 45%) was collected by filtration as a white solid. mp. 80°-82° C. 1H NMR (300 MHz, CD3OD): δ0.65 to 0.69 (3H, bs), 1.080 (24H, bs), 11.37 to 1.40 (2H, m), 1.71 to 1.75 (2H, m), 2.21 to 2.24 (2H, m), 2.64 to 2.68 (6H, bs), 2.86 to 2.90 (2H, m), 3.06 to 3.10 (6H, bs), and 3.90 to 4.10 (1H, m). IR (KBr): 2915, 2848, 1649, and 1203 cm-1. Analysis calculated for C24H51ClN2O.1/4H2O: C, 68.05; H, 12.25; N, 6.61; Cl, 8.37. Found: C, 67.86; H, 12.11; N, 6.57; Cl, 8.24.

reactant | N,N-dimethyl-N'-(2-propyl)-N'-hexadecanoyl-1,3-propanediamine | 0.52 mmole, 0.20 g | CN(CCCN(C(CCCCCCCCCCCCCCC)=O)C(C)C)C | C24H50N2O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-Dimethyl-N'-(2-propyl)-N'-hexadecanoyl-1,3-propanediamine hydrochloride | Cl.CN(CCCN(C(CCCCCCCCCCCCCCC)=O)C(C)C)C | InChI=1S/C24H50N2O.ClH/c1-6-7-8-9-10-11-12-13-14-15-16-17-18-20-24(27)26(23(2)3)22-19-21-25(4)5;/h23H,6-22H2,1-5H3;1H
